US07566789B2
3.1 3.89 g (20.5 mmol) of sodium disulfite are added to a solution of 3.00 g (20.5 mmol) of 2-chlorothiophene-5-carbaldehyde and 3.98 g (20.5 mmol) of ethyl 3,4-diaminophenylacetate in 30 ml of 1-methyl-pyrrolidone, and the mixture is stirred at 110° C. for 18 hours. Water is added to the reaction mixture, which is extracted with dichloromethane. The organic phase is dried using sodium sulfate and evaporated, giving ethyl [2-(5-chlorothiophen-2-yl)-1H-benzimidazol-5-yl]acetate as a brown oil (ESI 321), which is employed without further purification for the next reaction.

reactant | sodium disulfite | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
reactant | 2-chlorothiophene-5-carbaldehyde | 20.5 mmol, 3.00 g | ClC=1SC(=CC1)C=O | C5H3ClOS
reactant | ethyl 3,4-diaminophenylacetate | 20.5 mmol, 3.98 g | NC=1C=C(C=CC1N)CC(=O)OCC | C10H14N2O2
reactant | Water | O | H2O
solvent | 1-methyl-pyrrolidone | 30 ml | CN1C(CCC1)=O | C5H9NO
product | ethyl [2-(5-chlorothiophen-2-yl)-1H-benzimidazol-5-yl]acetate | ClC1=CC=C(S1)C1=NC2=C(N1)C=CC(=C2)CC(=O)OCC | C15H13ClN2O2S
